US06235731B1
1) Synthesis of N-[3-(4-benzoylpiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a suspension of 0.8 g (3.67 mmol.) of 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid and 0.84 g (8.8 mmol.) of N-hydroxysuccinimide in acetonitrile (15 ml) was added, at room temperature, 1.41 g (7.36 mmol.) of N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride. The mixture was stirred for 2 hours. To the reaction system was added a solution of 1.41 g (4.4 mmol.) of 4-(3-aminopropan-1-yl)-1-benzoylpiperazin dihydrochloride, 1.34 g (8.8 mmol.) of 1,8-diazabicyclo[5.4.0]unde-7-cene (DBU) and 1.0 ml (7.17 mmol.) of triethylamine in acetonitrile (15 ml). The mixture was stirred for further 2 hours. The solvent was distilled off under reduced pressure. To the residue was added water, which was subjected to extraction with ethyl acetate (a small volume of ethanol was also used). The organic layer was washed with a saturated aqueous saline solution, dried over magnesium sulfate and subjected to to distillation under reduced pressure. The residue was subjected to fractional purification by means of a column chromatography (methanol/ethyl acetate 30-40%), followed by distilling off the solvent under reduced pressure to afford the object compound as a reddish purple crystalline product. The yield was 0.738 g (45%).

reactant | 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid | 3.67 mmol, 0.8 g | N=1C=C2C=C(SC3=CC=CC1N23)C(=O)O | C10H6N2O2S
reactant | N-hydroxysuccinimide | 8.8 mmol, 0.84 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride | 7.36 mmol, 1.41 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-(3-aminopropan-1-yl)-1-benzoylpiperazin dihydrochloride | 4.4 mmol, 1.41 g | Cl.Cl.NCCCN1CCN(CC1)C(C1=CC=CC=C1)=O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | triethylamine | 7.17 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | N-[3-(4-benzoylpiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C(C1=CC=CC=C1)(=O)N1CCN(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C24H25N5O2S
